US05191132
In this reaction, 8.3 g (0.05 m) of fluorene was dissolved in 150 ml of tetrahydrofuran. Then 31.8 ml (0.05 m) of butyl lithium (1.6 molar in hexane) was added dropwise to this solution. After one hour, this solution was added gradually to a stirred solution of 9 ml (0.1 m) of dibromoethane in 300 ml of pentane within 2 hours. Then the reaction mixture was treated with 50 ml of an aqueous NH4Cl solution, and then washed with 50 ml of water. The organic phase was dried over Na2SO4. Then the solvent was removed in vacuo. The yellow residue was dissolved in pentane. The pentane solution was filtered over silica. The solution was concentrated to about 20% of the original volume and then the product was crystallized at -30° C. A yield of 10.88 g of 1-bromo-2-(fluorenyl)ethane was obtained. The product was characterized through 1H NMR, 13C NMR, an Mass spectroscopy.

reactant | fluorene | 8.3 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | butyl lithium | 1.6 molar, 31.8 ml | C(CCC)[Li]
reactant | dibromoethane | 9 ml | BrC(C)Br | C2H4Br2
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | pentane | 300 ml | CCCCC | C5H12
product | 1-bromo-2-(fluorenyl)ethane | yield of 10.88 g | BrCCC1=CC=CC=2C3=CC=CC=C3CC12 | C15H13Br
